US08624040B2
Step 7: 7,7-dimethyl-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide
To a mixture of 7,7-dimethyl-5-(2-nitrophenylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide (15.4 g, 31 mmol) and cesium carbonate (20.2 g, 62 mmol) in acetonitrile (800 mL) was added a solution of thiophenol (6.85 g, 62 mmol) in acetonitrile (70 mL). The reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue applied to silica gel chromatography (0-20% DCM/MeOH) to afford the title compound (8.2 g, 85%). LCMS (FA) ES+ 311; 1H NMR (400 MHz, DMSO) δ 11.49 (s, 1H), 7.30 (s, 1H), 4.91 (s, 1H), 4.01 (dd, J=15.6, 8.0 Hz, 1H), 3.71 (s, 2H), 3.55-3.44 (m, 1H), 2.71 (s, 2H), 1.69 (s, 3H), 1.53 (s, 3H), 1.25 (s, 6H).

reactant | 7,7-dimethyl-5-(2-nitrophenylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide | 31 mmol, 15.4 g | CC1(C2=C(CN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C=C(S2)C(=O)NOC2OCCCC2)C | C21H25N3O7S2
reactant | cesium carbonate | 62 mmol, 20.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thiophenol | 62 mmol, 6.85 g | C1(=CC=CC=C1)S | C6H6S
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 7,7-dimethyl-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide | 8.2 g, 85% | CC1(C2=C(CNC1)C=C(S2)C(=O)NOC2OCCCC2)C | C15H22N2O3S
